US07358376B2
c) 2-Acetylamino-5-bromo-3-cyanothiophene
2-Acetylamino-3-cyanothiophene (13.5 g) was dissolved in dimethylformamide (110 ml) and cooled in an ice/water bath. N-Bromosuccinimide (15.9 g) was added portion wise over 20 minutes and then the mixture warmed to room temperature and stirred for 3 h. The mixture was concentrated to approximately half the volume and water added to precipitate the product. This was filtered off and dried at 60° C. under vacuum (18.8 g).

reactant | 2-Acetylamino-3-cyanothiophene | 13.5 g | C(C)(=O)NC=1SC=CC1C#N | C7H6N2OS
reactant | N-Bromosuccinimide | 15.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 2-Acetylamino-5-bromo-3-cyanothiophene | C(C)(=O)NC=1SC(=CC1C#N)Br | C7H5BrN2OS
